US07638256B2
In a nitrogen atmosphere at 5° C., 100 ml of 1.6M n-butyllithium in hexane was added to a mixture of 21.7 g of 1,1,1,3,3,3-hexafluoro-2-propanol and 120 g of tetrahydrofuran. The mixture was stirred at 5° C. for 1 hour. Then a dilution of 22.8 g of 2-oxopropyl 5-norbornene-2-carboxylate in 30 g of tetrahydrofuran was added at 5° C. The mixture was stirred for 15 hours, after which dilute hydrochloric acid was added for quenching and neutralization. This was followed by conventional aqueous work-up and recrystallization from hexane for purification, collecting 24.6 g of 2-methyl-3,3,5,5,5-pentafluoro-2,4,4-trihydroxypentyl 5-norbornene-2-carboxylate (yield 58%).

reactant | n-butyllithium | 1.6M, 100 ml | C(CCC)[Li]
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 21.7 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | 2-oxopropyl 5-norbornene-2-carboxylate | 22.8 g | C12C(CC(C=C1)C2)C(=O)OCC(C)=O | C11H14O3
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 120 g | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-methyl-3,3,5,5,5-pentafluoro-2,4,4-trihydroxypentyl 5-norbornene-2-carboxylate | 24.6 g, yield 58% | C12C(CC(C=C1)C2)C(=O)OCC(C(C(C(F)(F)F)(O)O)(F)F)(O)C | C14H17F5O5
